US07723332B2
According to general procedure A, 4-Bromo-2-trifluoromethoxy-benzenesulfonyl chloride (0.35 g, 1.03 mmol) and dimethylamine (10 mL, 33% in ethanol) were stirred in sealed tube for 16 hours. 4-Bromo-N,N-dimethyl-2-trifluoromethoxy-benzenesulfonamide (0.29 g, 81%) was provided after purification. Mp. 55-58° C. MS (ESI) m/z 348.14.

reactant | 4-Bromo-2-trifluoromethoxy-benzenesulfonyl chloride | 1.03 mmol, 0.35 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C7H3BrClF3O3S
reactant | dimethylamine | 10 mL | CNC | C2H7N
product | 4-Bromo-N,N-dimethyl-2-trifluoromethoxy-benzenesulfonamide | 0.29 g, 81% | BrC1=CC(=C(C=C1)S(=O)(=O)N(C)C)OC(F)(F)F | C9H9BrF3NO3S
